US08034811B2
4-(2-Aminooxy-ethyl)-benzonitrile
Prepared by a similar procedure as described for preparation 31. Starting materials: N-hydroxyphthalimide and 4-(2-hydroxyethyl)benzonitrile (Maybridge). 13C-NMR (DMSO-d6) δ 145.6, 131.9, 129.9, 118.9, 108.7, 74.6, 34.3.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-(2-hydroxyethyl)benzonitrile | OCCC1=CC=C(C#N)C=C1 | C9H9NO
product | 4-(2-Aminooxy-ethyl)-benzonitrile | NOCCC1=CC=C(C#N)C=C1 | C9H10N2O
